US05171753
β-[(2-Furanylmethyl)amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mol) and furfurylamine (3.00 g, 0.030 mol) was heated at 140° C. for 6 hours, and then allowed to stand at ambient temperature for 14 hours. The solidified reaction mixture was triturated with petroleum ether and the crude solid collected by filtration. Recrystallization from toluene-isooctane gave 2.3 g (78%) of the product; mp 141°-144° C.

reactant | trans-stilbene oxide | 0.010 mol, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | furfurylamine | 0.030 mol, 3.00 g | C(C1=CC=CO1)N | C5H7NO
product | β-[(2-Furanylmethyl)amino]-α-phenylbenzeneethanol | 2.3 g, 78% | O1C(=CC=C1)CNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H19NO2
